US07211577B2
5) Preparation of 6-(3-fluoro-4-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
To an ice-cold suspension of 4-carboxy-6-(3-fluoro-4-methylphenyl)-2H-pyridazin-3-one (5.50 g, 22.2 mmol) in methanol (100 mL) was added dropwise thionyl chloride (2.72 g, 24.4 mmol), and the mixture was stirred at 80° C. for 8 hours. The temperature of the reaction mixture was allowed to drop back to room temperature, and the solvent was distilled off under reduced pressure. Water was added to the ice-cold residue. The precipitate was collected by filtration, washed with water and dried to yield the title compound as pale yellow fine-needles (5.43 g, 92.7%).

reactant | 4-carboxy-6-(3-fluoro-4-methylphenyl)-2H-pyridazin-3-one | 22.2 mmol, 5.50 g | C(=O)(O)C=1C(NN=C(C1)C1=CC(=C(C=C1)C)F)=O | C12H9FN2O3
reactant | thionyl chloride | 24.4 mmol, 2.72 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 mL | CO | CH4O
product | 6-(3-fluoro-4-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | 5.43 g, 92.7% | FC=1C=C(C=CC1C)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O3
